US05843949
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole hydrochloride (4.53 g, 20.5 mmol), K2CO3 (4.5 g), 1-[3-(3-chloropropoxy)phenyl]ethanone (6.4 g, 29 mmol) in acetonitrile (60 ml) was heated at reflux for 5 hours. At the end of the reaction, the solvent was removed and the residue was extracted into dichloromethane (300 ml). The inorganic insolubles were filtered off. The dichloromethane solution was concentrated to a small volume (10 ml) and purified on a flash chromatographic column (SiO2, 75 g, eluted with dichloromethane, 900 ml; and 2% methanol in dichloromethane, 800 ml). The fractions containing the pure product were combined and concentrated to an oil (2.87 g, 35%). The oil was dissolved into ethanol and treated with a solution of fumaric acid (841 mg). Recrystallization (twice) from ethanol afforded 2.53 g of 1-[3-[3-[4-(6-fluoro-1,2-benzisoxazo]-3-yl)-1-piperidinyl]propoxy]phenyl]ethanone fumarate as white crystals, m.p.=172°-174° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole hydrochloride | 20.5 mmol, 4.53 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | K2CO3 | 4.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[3-(3-chloropropoxy)phenyl]ethanone | 29 mmol, 6.4 g | ClCCCOC=1C=C(C=CC1)C(C)=O | C11H13ClO2
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | ethanone fumarate | C(\C=C\C(=O)O)(=O)O.C(C)=O | InChI=1S/C4H4O4.C2H4O/c5-3(6)1-2-4(7)8;1-2-3/h1-2H,(H,5,6)(H,7,8);2H,1H3/b2-1+;
